US06995162B2
2-Bromo-N-(2-hydroxy-5-nitro-phenyl)-2-methyl-propionamide
2-Amino-4-nitro-phenol (3.08 g, Aldrich) was stirred with THF (30 ml, Aldrich) in an ice bath. 2-Bromo-2-methyl-propionyl bromide (2.47 ml, Aldrich) and Et3N (2.0 g, Aldrich) was slowly added via syringe. The mixture was stirred for 45 min then poured into ice. The aqueous phase was extracted by EtOAc (50 mL×4). The organic layer was dried and concentrated. The desired product was crystallized from EtOAc. (Chem. Pharm. Bull 1996, 44(1) 103–114).

reactant | 2-Amino-4-nitro-phenol | 3.08 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | 2-Bromo-2-methyl-propionyl bromide | 2.47 ml | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | Et3N | 2.0 g | CCN(CC)CC | C6H15N
product | 2-Bromo-N-(2-hydroxy-5-nitro-phenyl)-2-methyl-propionamide | BrC(C(=O)NC1=C(C=CC(=C1)[N+](=O)[O-])O)(C)C | C10H11BrN2O4
